US06403522B1
a) 4-(tert-Butyl dimethylsiloxy)phenylboronic acid
Magnesium turnings (0.53 g, 22 mmol) and 20 mL of THF were placed into a two-necked flask. Next, tert-butyldimethylsilyloxyphenyl bromide (5.64 g, 19.6 mmol) was added and the mixture was heated under reflux for 2 h before it was cooled to room temperature. The brown mixture was added to a solution of trimethyl borate (2.43 g, 24 mmol) in 5 mL of THF through a dropping funnel at −78° C. and allowed to warm to room temperature overnight. After hydrolysis with 90 mL of ca. 0.1 M hydrochloric acid followed by standard work-up with methyl tert-butyl ether, the brown residue was washed with 20 mL of cold hexane, and the resulting white product (3.86 g, 78%) was dried in vacuo. Mp: 175° C. (1H NMR (300 MHZ, CDCl3): δ0.25 (s, 6H); 1.01 (s, 9H); 6.95 (d, J=8.5 Hz, 2H); 8.11 (d, J 8.5 Hz, 2H). 13C NMR (75 MHZ, CDCl3): δ−4.3; 18.1; 25.7; 119.8; 137.5; 159.8. Reference: Bolm, C.; Derrien, N.; Seger, A. Synlett 1996, 387.

reactant | Magnesium | 22 mmol, 0.53 g | [Mg] | Mg
reactant | tert-butyldimethylsilyloxyphenyl bromide | 19.6 mmol, 5.64 g | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC=C1)Br | C12H19BrOSi
reactant | trimethyl borate | 24 mmol, 2.43 g | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | ca. 0.1 M, 90 mL | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | methyl tert-butyl ether | C(C)(C)(C)OC | C5H12O
product | 4-(tert-Butyl dimethylsiloxy)phenylboronic acid | O([Si](C)(C)C(C)(C)C)C1=CC=C(C=C1)B(O)O | C12H21BO3Si
